US05468898
A suspension of 0.94 g (2 mmoles) of N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-cyanovinyl)indol-1-yl]acetamide, 0.56 g (10.45 mmoles)of ammonium chloride and 0.68 g (10.45 mmoles) of sodium azide in 20 ml of dimethyl-formamide is heated at 100° C. for 18 hours. The mixture is poured into ice water. Addition of ethyl acetate gives a precipitate which is collected and triturated in acetone to give N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-tetrazol-5-yl)vinylindol-1-yl]acetamide. (m.p. 203°-205° C.)

reactant | N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-cyanovinyl)indol-1-yl]acetamide | 2 mmoles, 0.94 g | CN(C(CN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=CC#N)=O)CCC1=CC=CC=C1 | C29H27N3O2
reactant | ammonium chloride | 10.45 mmoles, 0.56 g | [Cl-].[NH4+]
reactant | sodium azide | 10.45 mmoles, 0.68 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl-formamide | 20 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-tetrazol-5-yl)vinylindol-1-yl]acetamide | CN(C(CN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=CC1=NN=NN1)=O)CCC1=CC=CC=C1 | C29H28N6O2
